US04200641
A mixture of 5.4 parts of urea and 13.7 parts of N1 -{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-4-(trifluoromethyl)-1,2-benzenediamine is stirred and heated for 4 hours at 190° C. The reaction mixture is cooled to room temperature and diluted with water. After the addition of trichloromethane, the layers are separated. The aqueous phase is extracted with trichloromethane. The combined organic phases are washed with water, dried, filtered and evaporated. The oily residue is purified by column-chromatography over silica gel using trichloromethane and methanol (90:10 by volume) as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from 2,2'-oxybispropane. The product is filtered off and dried, yielding 1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-5-(trifluoromethyl)-2H-benzimidazol-2-one; mp. 152.7° C.

reactant | urea | NC(=O)N | CH4N2O
reactant | N1 -{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-4-(trifluoromethyl)-1,2-benzenediamine | C1(=CC=CC=C1)C(N1CCN(CC1)CCCNC=1C(=CC(=CC1)C(F)(F)F)N)C1=CC=CC=C1 | C27H31F3N4
reactant | trichloromethane | ClC(Cl)Cl | CHCl3
solvent | water | O | H2O
product | 1-{3-[4-(diphenylmethyl)-1-piperazinyl]propyl}-1,3-dihydro-5-(trifluoromethyl)-2H-benzimidazol-2-one | C1(=CC=CC=C1)C(N1CCN(CC1)CCCN1C(NC2=C1C=CC(=C2)C(F)(F)F)=O)C2=CC=CC=C2 | C28H29F3N4O
